US03989714
3-(3,4-Dimethoxyphenyl)hexahydroindoline hydrochloride
A mixture of 10.0 g (0.036 mole) of 3-(3,4-dimethoxyphenyl)hexahydro-1-hydroxyindoline base, 400 ml of 1N hydrochloride acid (0.4 mole) and 20 g of zinc dust was heated with stirring on the steam bath for 11/2 hours. The cooled mixture was decanted (still acid to congo red) and 10M KOH (150 ml) was added. The separated oil was ether extracted (800 ml) and the ether solution was dried (K2CO3), filtered and treated with HCl gas to precipitate solid salt; wt. 9.5 g (84.2%), mp 188°-198° C. Recrystallization from 2-propanol-ether gave pure material melting at 190°-192° C.

reactant | 3-(3,4-dimethoxyphenyl)hexahydro-1-hydroxyindoline | 0.036 mole, 10.0 g | COC=1C=C(C=CC1OC)C1CN(C2CCCCC12)O | C16H23NO3
reactant | hydrochloride | 0.4 mole, 1N, 400 ml | Cl | ClH
catalyst | zinc | 20 g | [Zn] | Zn
product | 3-(3,4-Dimethoxyphenyl)hexahydroindoline hydrochloride | Cl.COC=1C=C(C=CC1OC)C1CNC2CCCCC12 | InChI=1S/C16H23NO2.ClH/c1-18-15-8-7-11(9-16(15)19-2)13-10-17-14-6-4-3-5-12(13)14;/h7-9,12-14,17H,3-6,10H2,1-2H3;1H
